Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Vertigo and left facial numbness and droop.
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ is a ___ year old right handed woman with history of
hypertension and borderline diabetes who presents with an 
episode
of vertigo, left face numbness, and a left facial droop.  
Patient
was in her usual state of health until 10:30pm.  She was about 
to
go take a shower and stood up from the bed.  At that time, she
felt very dizzy and had a room spinning sensation.  She felt 
like
she was "on a boat."  When she closed her eyes, the dizziness 
did
not resolve.  She did not have any nausea, vision changes, focal
weakness at that time.  The dizziness lasted approximately 20
minutes.  Ms. ___ has had similar dizziness episodes last 
year
which she said were much less severe and lasted minutes.  Then,
she tells me she was found to have a very low potassium level,
and once that was corrected, the dizziness did not reccur.  
After
the dizziness resolved, she went to take a shower but still felt
a bit "light headed and wobbly."  In the shower, she almost fell
and had to hold on to the wall.  Was not falling to the right or
left more.  While in the shower, the left frontal/parietal 
aspect
her head felt "tight" and this sensation spread over minutes to
the left side of her face.  The area then felt tingly, and then
numb.  She looked in the mirror after some time, and noticed 
that
the left corner of her mouth was droopy.  Her partner also 
agreed
that this was new.  Ms. ___ called her ___ answering 
service
and was instructed to come to the emergency room.  On arrival to
the emergency room, the numbness in the face was improving, and
she only had numbness at the left lower lip on my initial
evaluation, and on second evaluation was completely resolved. 
Ms. ___ denies any dysarthria, dysphagia, focal weakness, 
gait
instability (other than from lightheadedness), vision changes
associated with her symptoms.  She is a nonsmoker.  Did not have
a headache.  But, does tell me she had migraines in the past 
that
are right sided, throbbing, associated with photophobia, but she
has not had one in ___ years.

On neuro ROS, the pt denies headache, loss of vision, blurred
vision, diplopia, dysarthria, dysphagia, tinnitus or hearing
difficulty. Denies difficulties producing or comprehending
speech.  Denies focal weakness. No bowel or bladder incontinence
or retention. Denies difficulty with gait.
 
On general review of systems, the pt denies recent fever or
chills.  No night sweats or recent weight loss or gain. Denies
cough, shortness of breath.  Denies chest pain or tightness,
palpitations.  Denies nausea, vomiting, diarrhea, constipation 
or
abdominal pain.  No recent change in bowel or bladder habits.  
No
dysuria.  Denies arthralgias or myalgias. Denies rash.

 
Past Medical History:
Hypertension
Borderline diabetes
hysterectomy ___ for fibroids/menorrhagia

 
Social History:
___
Family History:
Mother, brother with HTN
No history of strokes, seizures, autoimmune disorders

 
Physical Exam:
Vitals: 98.1, 75, 19, 101/56, 99% RA
General: Awake, cooperative, NAD, overweight.
HEENT: NC/AT
Pulmonary: CTABL
Cardiac: RRR, no murmurs
Abdomen: soft, nontender, nondistended
Extremities: no edema, pulses palpated
Skin: no rashes or lesions noted.
 
Neurologic:
-Mental Status: Alert, oriented x 3.  Able to relate history
without difficulty.  Attentive, able to name ___ backward 
without
difficulty.  Language is fluent with intact repetition and
comprehension.  Normal prosody.  There were no paraphasic 
errors.
Pt. was able to name both high and low frequency objects.  Able
to read without difficulty.  Speech was not dysarthric. Able to
follow both midline and appendicular commands. Pt. was able to
register 3 objects and recall ___ at 5 minutes.  There was no
evidence of apraxia or neglect.

-Cranial Nerves:
I: Olfaction not tested.
II: PERRL 3 to 2mm and brisk.  VFF to confrontation. Funduscopic
exam revealed no papilledema, exudates, or hemorrhages.
III, IV, VI: EOMI without nystagmus.  Normal saccades.
V: Facial sensation intact to light touch.  Mildly decreased
sensation to pin prick in V2/3, 85% compared to 100% of normal.
VII: Left nasolabial fold flattening, strong eye closer on left,
symmetric brow wrinkling, symmetric eye blink.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.
-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
No adventitious movements, such as tremor, noted. No asterixis
noted.

  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
R  5    ___   ___  5    5    5  5     5     5   5
L  5    ___   ___ *5-  *5-  *5- 5     5     5   5
**limited by pain due to torn meniscus

-Sensory: No deficits to light touch, pinprick, cold sensation,
vibratory sense, proprioception throughout except face as above.
No extinction to DSS.
-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    -   2
R  2  2    2    2   2
**deferred due to pain

Plantar response was flexor bilaterally.
-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF or HKS bilaterally.
-Gait: Good initiation. Narrow-based, normal stride and arm
swing.  Tandem deferred due to knee pain. Romberg absent.
 

 
Pertinent Results:
___ 02:14AM URINE  HOURS-RANDOM
___ 02:14AM URINE  UCG-NEGATIVE
___ 02:14AM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG mthdone-NEG
___ 02:14AM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 02:14AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-5.0 
LEUK-NEG
___ 12:34AM   COMMENTS-GREEN TOP,
___ 12:34AM   GLUCOSE-121* NA+-138 K+-3.9 CL--100 TCO2-29
___ 12:27AM   CREAT-1.0
___ 12:27AM   UREA N-13
___ 12:27AM   estGFR-Using this
___ 12:27AM   CK(CPK)-430*
___ 12:27AM   cTropnT-<0.01
___ 12:27AM   CK-MB-3
___ 12:27AM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 12:27AM   WBC-9.8 RBC-4.92 HGB-13.8 HCT-37.4 MCV-76* 
MCH-28.1 MCHC-37.0* RDW-14.0
___ 12:27AM   PLT COUNT-246
___ 12:27AM   ___ PTT-28.7 ___

CT/CTA head and neck ___: (wet read)
NECT: No acute process. CTA Head: The circle of ___ and its 
principal 
branches are widely patent. There is no large aneurysm or AVM. 
CTA Neck:  
Carotids and verts are widely patent, without hematoma or 
dissection. 
 
Brief Hospital Course:
___ is a ___ year old right handed woman with history of
hypertension and borderline diabetes who presents with an 
episode
of vertigo, left face numbness, and a left facial droop.  

# Small brain stem infarction
Patient was in her usual state of health until 10:30pm.  On my
evaluation, per report, vertigo and facial numbness had fully
resolved.  Given stroke risk factors (HTN, overweight, 
borderline diabetes), possible that she had a small ischemic 
infarct, she was admitted to neurology for further evaluation. 
Her exam is significant for left nasolabial fold flattening and
mildly decreased sensation to pin prick in V2/3, 85% compared to
100% of normal which on repeat exam resolved. She did have a 
very subtle pronation on the left.  Overall, the constellation 
of her symptoms (with the exception of the pronation although it 
was a very subtle finding which seemed to resolve on repeat 
exam) may be consistent with lateral medullary syndrome. NCHCT 
and CTA head/neck with no evidence of large territory infarct or 
vessel occlusions.  Carotids are widely patent. No evidence of 
dissection.  Her MRI was negative for any infarct on radiology's 
review but on our read, it showed a small hyperintensity in the 
brain stem on DWI with ADC correlation which fits with possible 
lateral medullary syndrome. We allowed patient's BP to 
autoregulate. In terms of risk factors assessment: AIC 6.4, LDL 
was not draw after fasting.  Patient was given aspirin 325mg x1 
and started on 81mg daily.  

# Transitional issues
- patient was discharged for outpatient TTE with bubble to 
evaluate for possible embolic source
- patient was discharged on outpatient fasting lipid panel check

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Atenolol 50 mg PO DAILY 
2. Triamterene-Hydrochlorothiazide 1 CAP PO DAILY 
3. Naproxen 500 mg PO Q12H:PRN pain 

 
Discharge Medications:
1. Atenolol 50 mg PO DAILY 
2. Naproxen 500 mg PO Q12H:PRN pain 
3. Triamterene-Hydrochlorothiazide 1 CAP PO DAILY 
4. Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet,delayed release (___) by mouth 
daily Disp #*30 Tablet Refills:*2
5. Atorvastatin 20 mg PO DAILY 
RX *atorvastatin 20 mg 1 tablet(s) by mouth at bedtime Disp #*30 
Tablet Refills:*2
6. Outpatient Lab Work
ICD-9 343

Please check fasting lipid panel.  

Send results to Dr ___ ___ 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Stroke

 
Discharge Condition:
Discharge condition: good
Mental status: awake, alert, oriented and attentive
Ambulatory status: independent
Neuro exam: left face droop, left lid droop

 
Discharge Instructions:
Dear Ms ___, 

It was a pleasure taking care of you.  You were in the hospital 
because of "spinning" sensation, abnormal left face sensation, 
and left face droop.  We think that you have a small stroke in 
your brain stem.  We started you on some medications to lower 
your stroke risk.  

You will also have to have a echocardiogram as an outpatient. 
Call ___ to schedule an appointment

You will need a fasting lipid panel (blood test) as an 
outpatient. Bring the requisition form to any clinical 
laboratory for the blood draws. 

Medication changes:
- We ADDED ASPIRIN 81mg daily to lower your stroke risk.
- We ADDED ATORVASTATIN 20mg daily to lower your stroke risk.

Please continue to take your home medications as previously 
prescribed.

Call your doctor or go to the emergency room if you experience 
any of the danger signs listed below.
 
Followup Instructions:
___